US04370334
A benzene solution (120 ml) of 2-cyanobenzaldehyde (30.97 g), methyl 4,4-dimethoxyacetoacetate (46.14 g), acetic acid (2.3 g) and piperidine (2.4 g) was refluxed under heating for 8 hours. After addition of benzene (80 ml) and washing with water, the solution was treated with an activated charcoal. The evaporated residue was chromatographed on silica gel (500 g) with methylene chloride as an eluent. The fractions containing a desired compound were collected and evaporated to give methyl 2-(2-cyanobenzylidene)-4,4-dimethoxyacetoacetate (25.16 g).

reactant | 2-cyanobenzaldehyde | 30.97 g | C(#N)C1=C(C=O)C=CC=C1 | C8H5NO
reactant | methyl 4,4-dimethoxyacetoacetate | 46.14 g | COC(C(CC(=O)OC)=O)OC | C7H12O5
reactant | piperidine | 2.4 g | N1CCCCC1 | C5H11N
solvent | benzene | 80 ml | C1=CC=CC=C1 | C6H6
solvent | acetic acid | 2.3 g | C(C)(=O)O | C2H4O2
solvent | benzene | 120 ml | C1=CC=CC=C1 | C6H6
product | methyl 2-(2-cyanobenzylidene)-4,4-dimethoxyacetoacetate | 25.16 g | C(#N)C1=C(C=C(C(=O)OC)C(=O)C(OC)OC)C=CC=C1 | C15H15NO5
